US08383619B2
Aqueous potassium hydroxide (50% w/v, 0.2 ml) was added to a suspension of methyl 4-allyloxy-2-hydroxy-5-isopropylbenzoate (313 mg, 1.25 mmol) in methanol (6 ml) and water (2 ml) and the mixture was stirred and held at reflux for 4 hours. Upon cooling to room temperature the organic solvent was removed in vacuo and the residue acidified by the addition of 2M hydrochloric acid (10 ml). The solid material was collected by suction filtration, rinsed with water (2×10 ml) and sucked dry under reduced pressure to afford 4-allyloxy-2-hydroxy-5-isopropylbenzoic acid (285 mg, 96%) as a colourless solid. 1H NMR (DMSO-d6) 13.50 (1H, br s), 11.40 (1H, s), 7.55 (1H, s), 6.51 (1H, s), 6.06 (1H, m), 5.42 (1H, dm), 5.28 (1H, dm), 4.64 (2H, m), 3.17 (1H, m), 1.17 (6H, d). MS: [M+H]+ 237.

reactant | potassium hydroxide | 0.2 ml | [OH-].[K+]
reactant | methyl 4-allyloxy-2-hydroxy-5-isopropylbenzoate | 1.25 mmol, 313 mg | C(C=C)OC1=CC(=C(C(=O)OC)C=C1C(C)C)O | C14H18O4
solvent | methanol | 6 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 4-allyloxy-2-hydroxy-5-isopropylbenzoic acid | 285 mg, 96% | C(C=C)OC1=CC(=C(C(=O)O)C=C1C(C)C)O | C13H16O4
